US05071999
a) Ethyl 2-phenyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
8.6 g (50 mmol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate and 7.6 50 mmol) of phenylglycine are heated under reflux overnight in 200 ml of toluene. The mixture is decanted from resinous material and concentrated, and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 50 mmol, 8.6 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | phenylglycine | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-phenyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C1(=CC=CC=C1)N1C2CN(CC2CC1)C(=O)OCC | C15H20N2O2
